US06977313B2
Into a three-necked, 300-mL flask equipped with a stirrer, a molecular-oxygen-containing gas (air) inlet tube and a gas outlet tube (fitted with a condenser), 2,7-dibromofluorene (9.30 g, 0.029 mol) was charged, followed by its dissolution with toluene (100 g). Subsequent to addition of a 25% aqueous solution of tetraammonium hydroxide (0.77 g) and a 48% aqueous solution of sodium hydroxide (2.66 g), the resulting mixture was vigorously stirred at 60° C. for 3 hours while introducing air at a flow rate of 0.1 L/min. After completion of the stirring, the reaction mixture was allowed to stand, and the resulting toluene layer was collected. The toluene layer was then subjected to acid washing, followed by water washing until its pH arose to 7. Toluene was then distilled off to recover crude crystals of 2,7-dibromofluorenone. The content of 2,7-dibromofluorene in the crude crystals at that time was 0%. Those crude crystals were recrystallized from N,N′-dimethylformamide (15 g) to afford 2,7-dibromofluorenone as yellow crystals (8.26 g).

reactant | oxygen | O=O | O2
reactant | 2,7-dibromofluorene | 0.029 mol, 9.30 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | tetraammonium hydroxide | 0.77 g | [OH-].[NH4+].[NH4+].[NH4+].[NH4+].[OH-].[OH-].[OH-]
reactant | sodium hydroxide | 2.66 g | [OH-].[Na+]
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 2,7-dibromofluorenone | 8.26 g, yield: 89.6% | BrC=1C(C2=CC3=CC(=CC=C3C2=CC1)Br)=O | C13H6Br2O
